US08486979B2
3-(5-(6-fluoropyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile
3-Cyano-N′-hydroxybenzimidamide (0.322 g, 1 mmol) was dissolved in pyridine 10 mL and 6-fluoronicotinoyl chloride (Frontier Scientific, 0.160 g, 1 mmol) was added. The reaction mixture was heated to reflux for 3 hours and then cooled to room temperature. The cooled reaction mixture was quenched with water (25 mL) and filtered. The solid was further purified with flash column chromatography (5% methanol/dichloromethane) to give the titled product. 1H NMR (300 MHz, DMSO-d6) δ 7.56-7.52 (m, 1 H), 7.85 (t, J=7.9 Hz, 1 H), 8.15-8.12 (m, 1 H), 8.43-8.41 (m, 1 H), 8.49 (m, 1 H), 8.8-8.74 (m, 1 H), 9.11-9.0 (m, 1 H) ppm; MS (DCI/NH3) m/z 267 (M+H)+.

reactant | 3-Cyano-N′-hydroxybenzimidamide | 1 mmol, 0.322 g | C(#N)C=1C=C(C(N)=NO)C=CC1 | C8H7N3O
reactant | 6-fluoronicotinoyl chloride | 1 mmol, 0.160 g | FC1=NC=C(C(=O)Cl)C=C1 | C6H3ClFNO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(5-(6-fluoropyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile | FC1=CC=C(C=N1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C14H7FN4O
